US07345038B2
To a solution of 2-chloro-5-(chloromethyl)pyridine (419 mg, 2.59 mmole) in 5 mL of dry acetonitrile is 512 mg (5.18 mmol) of azacycloheptane followed by 358 mg (2.59 mmol) of potassium carbonate. The reaction is heated at 80° C. for 20 h. After cooling, the reaction mixture is quenched with 5 mL of water, extracted three-times with methylene chloride, and dried over sodium sulfate. Concentration of the solvent provided an oil which was purified by silica gel chromatography to provide 340 mg (59% yield) of 1-(6-Chloro-pyridin-3-ylmethyl)-azepane. Diagnostic 1H NMR (400 MHz, CDCl3) 1.40–1.70 (m, 8H), 2.50–2.65 (m, 4H), 3.65 (s, 2H), 7.28 (d, 1H, J=8.3 Hz), 7.65–7.70 (m, 1H), 8.30 (d, 1H, J=2.1 Hz); MS 225.3 (M+H).

reactant | 2-chloro-5-(chloromethyl)pyridine | 2.59 mmole, 419 mg | ClC1=NC=C(C=C1)CCl | C6H5Cl2N
reactant | azacycloheptane | 5.18 mmol, 512 mg | N1CCCCCC1 | C6H13N
reactant | potassium carbonate | 2.59 mmol, 358 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | 1-(6-Chloro-pyridin-3-ylmethyl)-azepane | 340 mg, 59% yield | ClC1=CC=C(C=N1)CN1CCCCCC1 | C12H17ClN2
